US08455497B2
3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-{4-[(3-cyanobenzyl)oxy]benzyl}-2-hydroxy-3-[[(4-hydroxy-3-methylphenyl)sulfonyl](isobutyl)amino]propylcarbamate (346)
The alkylation step was carried out as described for N-(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl-oxycarbonyl-, (4S,5R)-4-[4-(3-cyanobenzyloxy)-benzyl]-5-i-butyl-[(3,4-methylenedioxyphenyl)sulfonyl]-aminomethyl-2,2-dimethyl-oxazolidine. The deacetylation step was carried out as described previously for (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(benzyloxy)benzyl]-2-hydroxy-3-[[(4-hydroxy-3-methylphenyl)sulfonyl](isobutyl)amino]propylcarbamate. The final product was isolated by preparative HPLC. (Column: Luna C18, Solvent: 75% to 100% MeOH/0.1% formic acid, tret: 4.08 min.) (Y=6%, 2 steps, overall.)

reactant | (4S,5R)-4-[4-(3-cyanobenzyloxy)-benzyl]-5-i-butyl-[(3,4-methylenedioxyphenyl)sulfonyl]-aminomethyl-2,2-dimethyl-oxazolidine | C(#N)C=1C=C(COC2=CC=C(C[C@]3(N(C(O[C@@H]3CC(C)C)(C)C)CN)S(=O)(=O)C3=CC4=C(C=C3)OCO4)C=C2)C=CC1 | C32H37N3O6S
reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(benzyloxy)benzyl]-2-hydroxy-3-[[(4-hydroxy-3-methylphenyl)sulfonyl](isobutyl)amino]propylcarbamate | C(C1=CC=CC=C1)OC1=CC=C(C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C2=CC(=C(C=C2)O)C)O)NC(O[C@H]2CO[C@H]3OCC[C@H]32)=O)C=C1 | C35H44N2O9S
product | hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-{4-[(3-cyanobenzyl)oxy]benzyl}-2-hydroxy-3-[[(4-hydroxy-3-methylphenyl)sulfonyl](isobutyl)amino]propylcarbamate | C(#N)C=1C=C(COC2=CC=C(C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C3=CC(=C(C=C3)O)C)O)NC(OC3COC4OCCC43)=O)C=C2)C=CC1 | C36H43N3O9S
